US07691863B2
e) 6-Cyclopropylmethoxy-5-piperidin-1-yl-pyrazine-2-carboxylic acid ((S)-1-hydroxymethyl-3-methyl-butyl)-amide
A mixture of 11 mg (0.04 mmol) 6-cyclopropylmethoxy-5-piperidin-1-yl-pyrazine-2-carboxylic acid, 15.3 mg (0.048 mmol) TBTU, 15.3 mg (0.119 mmol) DIPEA and 7 mg (0.059 mmol) (S)-2-amino-4-methyl-pentan-1-ol (commercially available) in 1 mL DMF was shaken at room temperature for 16 h. The mixture was subjected to purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and NEt3. The combined product fractions were evaporated to yield 10.5 mg (70%) of the title compound. m/z (ES+): 377.5 (M+H).

reactant | 6-cyclopropylmethoxy-5-piperidin-1-yl-pyrazine-2-carboxylic acid | 0.04 mmol, 11 mg | C1(CC1)COC1=C(N=CC(=N1)C(=O)O)N1CCCCC1 | C14H19N3O3
reactant | TBTU | 0.048 mmol, 15.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.119 mmol, 15.3 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-amino-4-methyl-pentan-1-ol | 0.059 mmol, 7 mg | N[C@H](CO)CC(C)C | C6H15NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-Cyclopropylmethoxy-5-piperidin-1-yl-pyrazine-2-carboxylic acid ((S)-1-hydroxymethyl-3-methyl-butyl)-amide | 10.5 mg, 70% | OC[C@H](CC(C)C)NC(=O)C1=NC(=C(N=C1)N1CCCCC1)OCC1CC1 | C20H32N4O3
